US04350693
Phosphorus pentachloride (2.5 g.) was added with stirring and ice-cooling to a suspension of 2-dichloroacetoxyimino-2-(1,2,5-thiadiazol-3-yl)acetic acid (syn isomer) (3.7 g.) in dry methylene chloride (100 ml.), and the mixture was stirred for 1 hour at ambient temperature. The resultant mixture was concentrated and benzene was added thereto and distilled off (twice repeated). The residue was dissolved in dry methylene chloride. The solution was dropwise added with stirring and ice-cooling to a solution of 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (3.9 g.) and bis(trimethylsilyl)acetamide (12 ml.) in dry methylene chloride (200 ml.). The resultant mixture was stirred for 1 hour at the same temperature and for 1 hour at ambient temperature. Methylene chloride was distilled off and to the residue were added ethyl acetate and water. After an insoluble material was filtered off, the ethyl acetate layer in the filtrate was washed three times with water, with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was distilled off to give a residue (4.5 g.). The residue containing 7-[2-dichloroacetoxyimino-2-(1,2,5-thiadiazol-3-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) was dissolved in a mixture of water and acetone, and the solution was stirred for 2 hours at ambient temperature and extracted with ethyl acetate. The extract was washed with water and with a saturated aqueous solution of sodium chloride, and dried over magnesium sulfate. The solvent was distilled off and the residue was dissolved in ethyl acetate. The solution was chromatographed on silica gel (5 g.) and the eluate was concentrated. The residue was reprecipitated from a mixture of ethyl acetate and ether, and the precipitates were collected by filtration, washed with ether and dried (3 g.). The powder was dissolved in distillated acetone, and the solution was treated with activated charcoal (3 g.) in column and then concentrated. The residue was reprecipitated from a mixture of acetone and ether. The precipitates were collected by filtration, washed with ether and dried to give 7-[2-hydroxyimino-2-(1,2,5-thiadiazol-3-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (2.5 g.), mp 155° to 160° C. (dec.).

reactant | Phosphorus pentachloride | 2.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2-dichloroacetoxyimino-2-(1,2,5-thiadiazol-3-yl)acetic acid | 3.7 g | ClC(C(=O)ON=C(C(=O)O)C1=NSN=C1)Cl | C6H3Cl2N3O4S
reactant | 7-[2-dichloroacetoxyimino-2-(1,2,5-thiadiazol-3-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | ClC(C(=O)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C1=NSN=C1)Cl | C16H13Cl2N9O6S3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 7-[2-hydroxyimino-2-(1,2,5-thiadiazol-3-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.5 g | ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C1=NSN=C1 | C14H13N9O5S3
